US06194426B1
2-Bromo-3-(4-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile is prepared as described in Example 9, from 2.2 g [lacuna] 3-(4-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile and 2.26 g of N-bromosuccinimide. 2.5 g of 2-bromo-3-(4-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile are thus obtained in the form of orange-beige powder melting at 120° C.

reactant | 3-(4-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 2.2 g | N1=CC=C(C=C1)C1=CC(=C2CCCCN12)C#N | C14H13N3
reactant | N-bromosuccinimide | 2.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-bromo-3-(4-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 2.5 g | BrC=1C(=C2CCCCN2C1C1=CC=NC=C1)C#N | C14H12BrN3
